US06511974B1
1-[4-(4H,10H-pyrazolo[5,1-c][1,4]benzodiazepine-5-carbonyl)phenyl]-3-(dimethylamino)-prop-2-en-1-one
A mixture of 1-[4-(4H,10H-pyrazolo[5,1-c][1,4]benzodiazepine-5-carbonyl) phenyl]ethanone (0.73 g), tert-butoxybis-[dimethylamino]methane (0.964 g) in dichloromethane (10 ml) was stirred at room temperature for 2 days. The mixture is concentrated in vacuo and the residue crystallized from dichloromethane-hexane to give 0.65 g of the title compound as yellow crystals, m.p. 225-230° C.

reactant | 1-[4-(4H,10H-pyrazolo[5,1-c][1,4]benzodiazepine-5-carbonyl) phenyl]ethanone | 0.73 g | N1=CC=C2CN(C3=C(CN21)C=CC=C3)C(=O)C3=CC=C(C=C3)C(C)=O | C20H17N3O2
reactant | tert-butoxybis-[dimethylamino]methane | 0.964 g | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-[4-(4H,10H-pyrazolo[5,1-c][1,4]benzodiazepine-5-carbonyl)phenyl]-3-(dimethylamino)-prop-2-en-1-one | 0.65 g | N1=CC=C2CN(C3=C(CN21)C=CC=C3)C(=O)C3=CC=C(C=C3)C(C=CN(C)C)=O | C23H22N4O2
